US07932279B2
2′,4′-Dihydroxy-5′-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-3-carboxylic Acid (3-morpholin-4-yl-propyl)-amide (67)
This product was synthesized using 2′,4′-bis-benzyloxy-5′-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-3-carboxylic acid and N-(3-aminopropyl) morpholine as described in general procedure D. LCMS: 497 [M+H].

reactant | 2′,4′-bis-benzyloxy-5′-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-3-carboxylic acid | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C1=NN=NN1CCCOC)C1=CC(=CC=C1)C(=O)O | C32H30N4O5
reactant | N-(3-aminopropyl) morpholine | NCCCN1CCOCC1 | C7H16N2O
product | 2′,4′-Dihydroxy-5′-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-3-carboxylic Acid (3-morpholin-4-yl-propyl)-amide | N1(CCOCC1)CCCNC(=O)C=1C=C(C=CC1)C1=C(C=C(C(=C1)C1=NN=NN1CCCOC)O)O | C25H32N6O5
